US06239074B1
3-[4-Chloro-3-(4,5-dimethyl-1,3-dioxolan-2-yl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 2.17)
30 g of 3-(4-chloro-3-dimethoxymethylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine, 2.1 g of 2,3-dihydroxybutane and 0.3 g of p-toluenesulfonic acid were dissolved in 100 ml of anhydrous toluene, and the stirred solution was refluxed for 7 hours in the absence of water. For working up, the solution was washed in succession with water and 10% strength NaHCO3 solution, dried over Na2SO4 and evaporated down.

reactant | 3-(4-chloro-3-dimethoxymethylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 30 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C(OC)OC | C15H14ClF3N2O4
reactant | 2,3-dihydroxybutane | 2.1 g | OC(C)C(C)O | C4H10O2
reactant | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[4-Chloro-3-(4,5-dimethyl-1,3-dioxolan-2-yl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C1OC(C(O1)C)C | C17H16ClF3N2O4
